US09085577B2
2-Cyclopropyl-4-nitropyridine (D52)
To a mixture of potassium cyclopropyltrifluoroborate (0.943 g, 6.37 mmol), palladium (II) acetate (0.0285 g, 0.126 mmol), di-1-adamantylbutylphosphine [CAS 321921-71-5] (0.0678 g, 0.189 mmol) and Cs2CO3 (6.165 g, 18.922 mmol) in toluene (20 ml) and water (4 ml) under a nitrogen atmosphere was added 2-chloro-4-nitropyridine (1 g, 6.307 mmo). The reaction mixture was heated at 98° C. for 2 days. After cooling, the mixture was washed with water. The organic phase was separated and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was purified by column chromatography (silica gel; Heptane/DCM from 100/0 to 50/50 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D52 (0.800 g, 77%) as yellow oil which crystallized upon standing

reactant | potassium cyclopropyltrifluoroborate | 6.37 mmol, 0.943 g | C1(CC1)[B-](F)(F)F.[K+]
reactant | di-1-adamantylbutylphosphine | 0.189 mmol, 0.0678 g | C12(CC3CC(CC(C1)C3)C2)C(CCCP)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | Cs2CO3 | 18.922 mmol, 6.165 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-4-nitropyridine | 1 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
catalyst | palladium (II) acetate | 0.126 mmol, 0.0285 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropyl-4-nitropyridine | C1(CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C8H8N2O2
